US04042711
2-Methyl-2-{4-(2-methoxy-5-chloro-benzamido-methyl)-biphenyl-4'oxy}-propionic acid was prepared by alkaline hydrolysis of ethyl 2-methyl-2-{4-[2-methoxy-5-chloro-benzamido-methyl]-biphenyl-4'-oxy}-propionate in 1 N potassium hydroxide and dioxane (1:5) at room temperature. Yield: 72% of theory; m.p. 104° C.

reactant | ethyl 2-methyl-2-{4-[2-methoxy-5-chloro-benzamido-methyl]-biphenyl-4'-oxy}-propionate | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)Cl)OC)=O | C27H28ClNO5
solvent | potassium hydroxide | 1 N | [OH-].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Methyl-2-{4-(2-methoxy-5-chloro-benzamido-methyl)-biphenyl-4'oxy}-propionic acid | Yield: 72% | CC(C(=O)O)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(C1=C(C=CC(=C1)Cl)OC)=O | C25H24ClNO5
